US04472381
Glycyl-L-proline benzylester hydrochloride (20.0 g, 64.1 m mole) was dissolved in dried ethanol (150 ml) and indan-2-on (4.23 g, 32.1 m mole), and Molecular Sieves (3A) (5 g) were added thereto. Sodium cyanoborohydride (2.01 g, 32.1 m mole) was gradually added to the above solution while cooling with ice, and stirring. The mixture was stirred for 1 hour under cooling with ice and then stirred for 2 hours at room temperature. A little insoluble material was separated by filtration. The ethanol was removed by distillation under reduced pressure from the reaction solution. To the residue water (150 ml) and ethyl ether (200 ml) were added and the solution was adjusted to pH 1.5 with 6N hydrochloric acid while stirring to dissolve it. The ethylether layer was removed and the remaining water layer was washed with ethyl ether (200 ml). Next, to the water layer ethyl ether (400 ml) was added and the solution was adjusted to pH 8.0 with sodium bicarbonate aqueous solution. The desired product was extracted with ethyl ether and the ethyl ether layer was separated. Further, the desired product was extracted by the addition of ethyl ether (200 ml) to the water layer and the thus extracted ethyl ether solution was separated. Such extracted ethyl ether layers were combined together, and washed with the aqueous solution saturated with sodium chloride (100 ml). The ethyl ether layer was dried with anhydrous sodium sulfate, and concentrated under reduced pressure to obtain a crystal. The crystal was washed with n-hexane, obtained on the filter paper and dried to yield a white crystal of N-(2-indanyl)glycyl-L-proline benzylester (8.02 g, 21.2 m mole, yield: 33%). Melting point: 96°-98° C.

reactant | Glycyl-L-proline benzylester hydrochloride | 20.0 g | Cl.C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C(CN)=O)=O
reactant | Sodium cyanoborohydride | 2.01 g | C(#N)[BH3-].[Na+]
reactant | ethanol | 150 ml | C(C)O | C2H6O
solvent | indan-2-on | 4.23 g | C1C(CC2=CC=CC=C12)=O | C9H8O
product | N-(2-indanyl)glycyl-L-proline benzylester | 8.02 g, yield: 33% | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C(CNC1CC2=CC=CC=C2C1)=O)=O | C23H26N2O3
